US08912248B2
22.3 g of 2-aminoanthraquinone (manufactured by Wako Pure Chemical Industries, Ltd.) and 180 g of dimethyl sulfoxide were stirred at 60° C., and then 0.04 g of STANOCT (trade name, manufactured by API Corporation; stannous octoate) was added thereto. Furthermore, 20.2 g of KARENZ MOI (trade name, manufactured by Showa Denko Kabushiki Kaisha; 2-isocyanatoethyl methacrylate) was added thereto, and the mixture was stirred for 4 hours. The reaction solution was filtered, and the filtrated was cooled to room temperature. Subsequently, 200 g of normal hexane was added to the reaction solution, and the mixture was stirred for one hour and then was subjected to filtration and washing, to obtain 33.1 g of 2-(2-methacryloyloxyethylureido)anthraquinone. 175 g of N-methylpyrrolidone (manufactured by Wako Pure Chemical Industries, Ltd.) was added to 21.1 g of 2-(2-methacryloyloxyethylureido)anthraquinone and 60.9 g of thioglycerol (manufactured by Sigma-Aldrich Co.), and the mixture was heated to 65° C. and stirred for 30 minutes under a nitrogen atmosphere. Subsequently, 0.14 g of V-65 (trade name, manufactured by Wako Pure Chemical Industries, Ltd.; 2,2′-azobis(2,4-dimethylvaleronitrile) was added thereto, and the mixture was stirred for 2 hours. 500 g of a mixed solvent of water/methanol (mixture at a weight ratio of 1:1) was added to the reaction solution, and the crystals crystallized out therefrom were separated by filtration and were washed using 100 g of methanol. The obtained solids were dried under reduced pressure, and 23.0 g of M-8 was obtained as brown solids.

reactant | 2-aminoanthraquinone | 22.3 g | NC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H9NO2
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | 2-isocyanatoethyl methacrylate | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
solvent | dimethyl sulfoxide | 180 g | CS(=O)C | C2H6OS
product | 2-(2-methacryloyloxyethylureido)anthraquinone | 33.1 g | C(C(=C)C)(=O)OCCNC(NC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)=O | C21H18N2O5
